US07875606B2
A solution of 10.0 g (47.0 mmoles) of 5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 100 ml of methanol was cooled to 0° C. Thereto was gradually added 2.1 g (56.5 mmoles) of sodium borohydride. The mixture was stirred at room temperature for 2 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain 8.3 g (yield: 82.2%) of (5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol.

reactant | 5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 47.0 mmoles, 10.0 g | ClC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4ClF3N2O
reactant | sodium borohydride | 56.5 mmoles, 2.1 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
product | (5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 8.3 g, yield: 82.2% | ClC1=C(C(=NN1C)C(F)(F)F)CO | C6H6ClF3N2O
